US05412097
A mixture of 2-ethyl-7-methylimidazo[4,5-b]pyridine-4-oxide (29.75 g, 0.168 mol), CHCl3 (25 mL) and POCl3 (160 mL) was heated to 80° C. for 1 h. After pouring over ice, the mixture was neutralized by careful addition of NH4OH and extracted with EtOAc. Concentration gave 5-chloro-2-ethyl-7-methylimidazo[4,5-b]pyridine as a solid.

reactant | 2-ethyl-7-methylimidazo[4,5-b]pyridine-4-oxide | 0.168 mol, 29.75 g | C(C)C=1NC=2C(=[N+](C=CC2C)[O-])N1 | C9H11N3O
reactant | POCl3 | 160 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | NH4OH | [NH4+].[OH-]
solvent | CHCl3 | 25 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-chloro-2-ethyl-7-methylimidazo[4,5-b]pyridine | ClC1=CC(=C2C(=N1)N=C(N2)CC)C | C9H10ClN3
